US05710198
17.5 g (0.268 mol) of potassium cyanide are added in portions to a solution, heated at 50° C., of 24.2g (0.122 mol) of xanthydrol in 420 ml of acetic acid. The reaction mixture is subsequently stirred at 60° C. for 2 hours and then cooled, poured onto 400 ml of water and extracted with ethyl acetate/hexane=1:1. The organic phases are washed with water, combined, dried over sodium sulfate and concentrated on a vacuum rotary evaporator. Chromatography of the residue over silica gel using the mobile phase system hexane/ethyl acetate=19:1 and crystallization of the pure fractions from ether/petroleum ether gives 20.2 g (80%) of 9-cyano-xanthene, melting point 101° C. (compound (102), Table 1). The compounds (111), (112), (113), (114), (115), (116) and (117) are prepared analogously to Example 2 from the corresponding substituted xanthydrols and thioxanthydrols, such as, for example, 4-cyclohexyl-xanthydrol, 2-tert-butyl-xanthydrol, 2-nonyl-xanthydrol, 2-(α,α-dimethylbenzyl)-4-methyl-xanthydrol, 2-n-propoxy-xanthydrol, 2,4-diethylthioxanthydrol or 2-dodecyl-thioxanthydrol.

reactant | potassium cyanide | 0.268 mol, 17.5 g | [C-]#N.[K+]
reactant | xanthydrol | 0.122 mol, 24.2g | C1=CC=C2C(=C1)C(C3=CC=CC=C3O2)O | C13H10O2
reactant | water | 400 ml | O | H2O
solvent | acetic acid | 420 ml | C(C)(=O)O | C2H4O2
product | 9-cyano-xanthene | 20.2 g, 80% | C(#N)C1C2=CC=CC=C2OC=2C=CC=CC12 | C14H9NO
